US04209644
2.67 parts of 3-methylbutenal, 5.5 parts of pulenol, 0.001 part of p-toluenesulfonic acid, and 20 vol. parts of benzene were charged to the same rectification column employed in Example 53, and reacted at 90° C. for 2 hours, while the volume of the system was maintained constant by feeding 10 vol. parts of fresh benzene per hour and distilling 10 vol. parts per hour of the water-containing benzene off from the system. Thus 100% of 3-methyl-3-butenal-1 was converted and 3-methyl-3-butenal-1-dipulenylacetal was obtained with the selectivity of 80.2%.

reactant | 3-methylbutenal | CC(=CC=O)C | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,1-di-(3-methyl-2-butenyloxy)-3-methyl-3-butene | CC(=CCOC(CC(=C)C)OCC=C(C)C)C | C15H26O2
